US07812031B2
d) 4-Phenyl-2-[(thiophen-2-ylmethyl)amino]pyrimidine-5-carboxylic acid
Ethyl 4-phenyl-2-[(thiophen-2-ylmethyl)amino]pyrimidine-5-carboxylate (1.70 g, 5 mmol) was dissolved in ethanol (10 ml). To the solution potassium hydroxide (0.56 g, 10 mmol) dissolved in 10 ml of water was added and the mixture was refluxed for 3 hours. The solvent was distilled off in vacuum, the residue was dissolved in water (35 ml), acidified to pH=3 with 10% hydrochloric acid. The precipitated white crystals were filtered off, washed with water (2×20 ml) and dried. 1.52 g (92%) of the title acid was obtained, m.p.: 212-213° C.; [M+H]+ 312.

reactant | Ethyl 4-phenyl-2-[(thiophen-2-ylmethyl)amino]pyrimidine-5-carboxylate | 5 mmol, 1.70 g | C1(=CC=CC=C1)C1=NC(=NC=C1C(=O)OCC)NCC=1SC=CC1 | C18H17N3O2S
reactant | potassium hydroxide | 10 mmol, 0.56 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 4-Phenyl-2-[(thiophen-2-ylmethyl)amino]pyrimidine-5-carboxylic acid | 1.52 g, 92% | C1(=CC=CC=C1)C1=NC(=NC=C1C(=O)O)NCC=1SC=CC1 | C16H13N3O2S
